US07323475B2
b) 4-Benzyloxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester
A mixture of 4-benzyloxy-1-hydroxy-isoquinoline-3-carboxylic acid butyl ester (1 eq.), Me3OBF4 (6 eq), KHCO3 (14 eq) and CH2Cl2 (10 ml/mmol 4-benzyloxy-1-hydroxy-isoquinoline-3-carboxylic acid butyl ester) was stirred at ambient temperature for 24 h. Then water (10 ml/mmol) was added and the mixture was extracted with CH2Cl2 (40 ml/mmol). The organic phase was separated, dried over MgSO4 and evaporated in vacuo to give a yellowish solid. The crude product was purified by flash column chromatography on silica gel using hexanes:EtOAc=85:15 as the eluent. Evaporation of the first fraction gave the title compound as a colorless oil in 20% yield; 1H NMR (CDCl3): δ=8.21 to 8.25 (m, 1H), 8.05 to 8.09 (m, 1H), 7.33 to 7.73 (m, 7H), 5.13 (s, 2H), 4.38 (t, 2H), 4.16 (s, 3H), 1.69 (m, 2H), 1.37 (m, 2H), 0.94 (t, 3H).

reactant | 4-benzyloxy-1-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 1 eq. | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)O | C21H21NO4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-Benzyloxy-1-methoxy-isoquinoline-3-carboxylic acid butyl ester | 20% yield | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)OC | C22H23NO4
